US04625025
Into 50 ml of methanol was added 8.1 g of 1-amino-3-propanethiol, followed by stirring, to be completely dissolved therein. Then, the mixture was cooled to 0° C. While stirring the solution, about 1/3-aliquot of a solution of 5.0 g of caustic soda dissolved in 40 ml of methanol was added dropwise thereinto, and the remainder of about 2/3-aliquot of the solution and a solution of 5.4 g of 2,2,2-trichloro-1-nitroethane diluted in 20 ml of methanol were added dropwise slowly over 50 minutes, and the reaction was carried out for one hour. During the dropwise addition, the liquid temperature was maintained at lower than 10° C. (about 8° C.). After the reaction carried out for one hour, the procedure of the post-treatments as described in Example 1 was followed to obtain 4.20 g of tetrahydro-2-(nitromethylene)-1,3thiazine (yield: 86.8%).

reactant | 1-amino-3-propanethiol | 8.1 g | NCCCS | C3H9NS
reactant | caustic soda | 5.0 g | [OH-].[Na+]
reactant | 2,2,2-trichloro-1-nitroethane | 5.4 g | ClC(C[N+](=O)[O-])(Cl)Cl | C2H2Cl3NO2
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | tetrahydro-2-(nitromethylene)-1,3thiazine | 4.20 g, yield: 86.8% | [N+](=O)([O-])C=C1SCCCN1 | C5H8N2O2S
